US09353066B2
A mixture of PS-triphenylphosphine (0.057 g, 0.220 mmol), methyl 4-hydroxy-3′-methyl-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-carboxylate (0.040 g, 0.1 mmol) and THF (1.33 mL) was stirred for 5 minutes at room temperature, then a solution of di-tert-butylazodicarboxylate (0.037 g, 0.160 mmol) in THF (0.33 mL) was added. The reaction mixture was stirred for 30 minutes, then a solution of 2-methylpropan-1-ol (9.0 mg, 0.120 mmol) in THF (0.33 mL) was added, and the reaction mixture was stirred for 48 hours at room temperature. A 1:1 mixture of MeOH:NaOH (1 mL, 1N) was added to the reaction mixture and then stirred at 50° C. for 6 hours. The mixture was filtered, washing with DMSO (1 mL), and concentrated under reduced pressure. The residue was dissolved in DMSO (2 mL) and purified by mass triggered reverse phase HPLC to give 3′-methyl-4-(2-methylpropoxy)-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-carboxylic acid. MS ESI calcd. for C23H23F3N3O3 [M+H]+ 446, found 446. 1H NMR (600 MHz, DMSO-d6) δ 10.17 (s, 1H), 8.79 (d, J=4.9 Hz, 1H), 7.86 (s, 1H), 7.84 (s, 1H), 7.69 (d, J=8.7 Hz, 1H), 7.48 (s, 1H), 7.23 (d, J=4.9 Hz, 1H), 7.16 (d, J=8.7 Hz, 1H), 7.09 (s, 1H), 3.82 (d, J=6.4 Hz, 2H), 2.37-2.27 (m, 3H), 2.01 (dt, J=13.3 Hz, 6.6 Hz, 1H), 0.97 (d, J=6.7 Hz, 6H).

reactant | triphenylphosphine | 0.220 mmol, 0.057 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 4-hydroxy-3′-methyl-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-carboxylate | 0.1 mmol, 0.040 g | OC1=C(C=C(C=C1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)C(=O)OC | C20H16F3N3O3
reactant | di-tert-butylazodicarboxylate | 0.160 mmol, 0.037 g | CC(C)(C)OC(=O)/N=N/C(=O)OC(C)(C)C | C10H18N2O4
reactant | 2-methylpropan-1-ol | 0.120 mmol, 9.0 mg | CC(CO)C | C4H10O
reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
solvent | THF | 0.33 mL | C1CCOC1 | C4H8O
solvent | THF | 0.33 mL | C1CCOC1 | C4H8O
solvent | THF | 1.33 mL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | 3′-methyl-4-(2-methylpropoxy)-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-carboxylic acid | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C1=CC(=C(C=C1)OCC(C)C)C(=O)O | C23H22F3N3O3
